US04241058
404.5 g of 3-(p-tert.butyl-phenyl)-2-methyl-acrolein are dissolved in 2500 ml of methanol and treated portionwise with 38 g of sodium borohydride while cooling with ice. Subsequently, the mixture is stirred at room temperature for 2.5 hours, poured into 2500 ml of ice-cold 2-N hydrochloric acid and exhaustively extracted with hexane. The combined hexane extracts are washed neutral with water, dried over sodium sulphate and evaporated. Vacuum distillation yields pure 3-(p-tert.butyl-phenyl)-2-methyl-allyl alcohol of boiling point 119° C./0.005 Torr.

reactant | 3-(p-tert.butyl-phenyl)-2-methyl-acrolein | 404.5 g | C(C)(C)(C)C1=CC=C(C=C1)C=C(C=O)C | C14H18O
reactant | sodium borohydride | 38 g | [BH4-].[Na+]
solvent | methanol | 2500 ml | CO | CH4O
product | 3-(p-tert.butyl-phenyl)-2-methyl-allyl alcohol | C(C)(C)(C)C1=CC=C(C=C1)C=C(CO)C | C14H20O
